US07723381B2
1.1 tert-butyl 4-(1-aminocyclopropyl)benzoate (Intermediate B)
50 mL of a 2M lithium isopropoxide solution in THF was placed under an argon atmosphere and 13.4 g of anhydrous lithium iodide was added thereto. After 15 minutes, 45 mL of a 1M methyltitanium isopropoxide solution in THF was added. Then the mixture was combined with 8.1 g of tert-butyl 4-cyanobenzoate and stirred for 10 minutes. Then within 60 minutes, 47.3 mL of a 15% diethylzinc solution in hexane was added thereto and the mixture was stirred for 12 hours at RT. After hydrolysis with 20 mL of water, it was stirred for a further 30 minutes, filtered off, and washed 3× with 100 mL of ether. After extraction of the organic phase with water, the mixture was evaporated down with silica gel and the substance was chromatographed with dichloromethane/methanol (98:2) at 20 mL/min on silica gel 70. Residue: 3 g oil.

reactant | lithium isopropoxide | 2M | CC([O-])C.[Li+]
reactant | lithium iodide | 13.4 g | [I-].[Li+]
reactant | tert-butyl 4-cyanobenzoate | 8.1 g | C(#N)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H13NO2
reactant | diethylzinc | C(C)[Zn]CC
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
catalyst | methyltitanium isopropoxide | 1M | CC([O-])C.C[Ti+3].CC([O-])C.CC([O-])C
solvent | water | 20 mL | O | H2O
product | tert-butyl 4-(1-aminocyclopropyl)benzoate | NC1(CC1)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C14H19NO2
